### PR TITLE
[Merged by Bors] - chore(Algebra): review a few porting notes

### PR DESCRIPTION
**Pull request by Vierkantor**
Go through porting notes and address a few that are either TODOs unrelated to the port, things changed in Lean 4 but not for the worse, or issues that are now solved.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Algebra/Subalgebra/Directed.lean [hunk 1]
```diff
@@ -53,18 +51,14 @@ noncomputable def iSupLift (dir : Directed (· ≤ ·) K) (f : ∀ i, K i →ₐ
           rfl)
         (T : Set A) (by rw [hT, coe_iSup_of_directed dir])
     map_one' := by apply Set.iUnionLift_const _ (fun _ => 1) <;> simp
-    map_zero' := by dsimp; apply Set.iUnionLift_const _ (fun _ => 0) <;> simp
+    map_zero' := by apply Set.iUnionLift_const _ (fun _ => 0) <;> simp
     map_mul' := by
-      subst hT; dsimp
-      apply Set.iUnionLift_binary (coe_iSup_of_directed dir) dir _ (fun _ => (· * ·))
-      all_goals simp
+      subst hT;
```
Comment (themathqueen) [inline Mathlib/Algebra/Algebra/Subalgebra/Directed.lean:56]: might as well also remove `;`?
```suggestion
      subst hT
```
same goes below

File: Mathlib/Algebra/Algebra/Subalgebra/Tower.lean [hunk 2]
```diff
@@ -88,7 +88,9 @@ theorem coe_restrictScalars {U : Subalgebra S A} : (restrictScalars R U : Set A)
 
 @[simp]
 theorem restrictScalars_top : restrictScalars R (⊤ : Subalgebra S A) = ⊤ :=
-  SetLike.coe_injective <| by dsimp -- Porting note: why does `rfl` not work instead of `by dsimp`?
+-- Porting note: `by dsimp` used to be `rfl`. This appears to work but causes
+-- this theorem to timeout in the kernel after minutes of thinking.
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/Algebra/Subalgebra/Tower.lean]:
```suggestion
  -- Porting note: `by dsimp` used to be `rfl`. This appears to work but causes
  -- this theorem to timeout in the kernel after minutes of thinking.
```

**Review by Ruben-VandeVelde — APPROVED** [review]
maintainer delegate

**Comment by riccardobrasca** [comment]
There is an error, but otherwise LGTM, thanks!

bors d+

**Comment by Vierkantor** [comment]
It looks like the build error is with the cache, not with the code. Especially since the previous build passed and only whitespace changed. So I'm going to try and risk it!

bors r+
